US08283354B2
To a solution of 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one (230 mg, 0.54 mmol) in CH2Cl2 (3 mL) under an inert atmosphere was added ether (12 mL) followed by the dropwise addition of 2 M HCl solution in ether (0.27 mL, 0.54 mmol) which resulted in the formation of a precipitate which was stirred for an hour and then collected by vacuum filtration and dried to afford 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one hydrochloride (205 mg, 83%). LC/MS: m/z 421.3 (M+H)+ at 2.48 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.25 (d, J=7.9 Hz, 1H), 8.08 (d, J=8.5 Hz, 1H), 7.74 (s, 1H), 7.48 (t, J=6.6 Hz, 2H), 7.04 (m, 2H), 4.10 (m, 5H), 3.79 (m, 4H), 2.53 (s, 3H), 1.90 (m, 1H), 0.87 (dd, J=16.3, 6.7 Hz, 6H)

reactant | 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one | 0.54 mmol, 230 mg | OC(C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)C(C)C | C24H28N4O3
reactant | ether | 12 mL | CCOCC | C4H10O
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.54 mmol, 0.27 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one hydrochloride | 205 mg, 83% | Cl.OC(C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)C(C)C | InChI=1S/C24H28N4O3.ClH/c1-15(2)21(30)24(31)28-12-10-27(11-13-28)23-17-9-8-16(3)14-19(17)25-22(26-23)18-6-4-5-7-20(18)29;/h4-9,14-15,21,29-30H,10-13H2,1-3H3;1H
